US05922720
9. 2-{[[4-[3-(4-Benzylpiperazin-1-yl)propylthio]-3-methoxy-2-pyridinyl]-methyl]thio}-1H-benzimidazole trihydrochloride
According to the procedure indicated in Examples 1), 3) and 6), reaction of 2-{[[4-(3-chloropropylthio)-3-methoxy-2-pyridinyl]methyl]thio}-1H-benzimidazole with N-benzylpiperazine and subsequent conversion into the hydrochloride gives the title compound; m.p. 180° C., dec.; colorless crystals; yield 59% of theory.

reactant | 2-{[[4-(3-chloropropylthio)-3-methoxy-2-pyridinyl]methyl]thio}-1H-benzimidazole | ClCCCSC1=C(C(=NC=C1)CSC1=NC2=C(N1)C=CC=C2)OC | C17H18ClN3OS2
reactant | N-benzylpiperazine | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | hydrochloride | Cl | ClH
product | 2-{[[4-[3-(4-Benzylpiperazin-1-yl)propylthio]-3-methoxy-2-pyridinyl]-methyl]thio}-1H-benzimidazole trihydrochloride | yield 59% | Cl.Cl.Cl.C(C1=CC=CC=C1)N1CCN(CC1)CCCSC1=C(C(=NC=C1)CSC1=NC2=C(N1)C=CC=C2)OC | InChI=1S/C28H33N5OS2.3ClH/c1-34-27-25(21-36-28-30-23-10-5-6-11-24(23)31-28)29-13-12-26(27)35-19-7-14-32-15-17-33(18-16-32)20-22-8-3-2-4-9-22;;;/h2-6,8-13H,7,14-21H2,1H3,(H,30,31);3*1H
